US08859550B2
tert-Butyl (1-(5-bromotetrazolo[1,5-a]pyrazin-8-yl)azetidin-3-yl)(methyl)carbamate
A 3 L round bottom flask was charged with tert-butyl methyl(1-(tetrazolo[1,5-a]pyrazin-8-yl)azetidin-3-yl)carbamate (200 g, 0.66 mol) and DMF (1 L). To the above was added N-bromosuccinimide (117 g, 0.66 mol) in portions at 10° C. The resulting mixture was stirred at 10° C. for 0.5 h. Work-up: the reaction mixture was poured into water (3 L). The resulting crystalline solid was collected by filtration, washed with water (500 mL), and dried to afford 200 g (79%) of the product as a white solid.

reactant | tert-butyl methyl(1-(tetrazolo[1,5-a]pyrazin-8-yl)azetidin-3-yl)carbamate | 0.66 mol, 200 g | CN(C(OC(C)(C)C)=O)C1CN(C1)C=1C=2N(C=CN1)N=NN2 | C13H19N7O2
reactant | DMF | 1 L | CN(C)C=O | C3H7NO
reactant | N-bromosuccinimide | 0.66 mol, 117 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | 3 L | O | H2O
product | tert-Butyl (1-(5-bromotetrazolo[1,5-a]pyrazin-8-yl)azetidin-3-yl)(methyl)carbamate | 200 g, 79% | BrC1=CN=C(C=2N1N=NN2)N2CC(C2)N(C(OC(C)(C)C)=O)C | C13H18BrN7O2
